US07799823B2
Preparation of 4-(4,4-Dimethyl-2-oxo-pyrrolidin-3-yloxy)-2-trifluoromethyl-benzonitrile
A solution of 4-[1-(2,4-dimethoxy-benzyl)-4,4-dimethyl-2-oxo-pyrrolidin-3-yloxy]-2-trifluoromethyl-benzonitrile (25 g; 56 mmol) in trifluoroacetic acid (250 mL)and triethylsilane (20 g; 169 mmol; 3 eq) was brought to gentle reflux overnight. The reaction was cooled to ambient temperature. The reaction mixture was concentrated in vacuo to give an oily residue. The crude product was dissolved in dichloromethane and was washed with saturated aqueous sodium bicarbonate and with brine solution. The organic phase was dried over anhydrous magnesium sulfate and concentrated in vacuo to give a dark purple oily residue. The product was purified by flash silica column chromatography. Elution with a gradient (100% hexanes to 3:2 v/v ethyl acetate-hexanes over 1 hour, 12 minutes; pump speed: 1 mL/min) afforded an off-white powder. Trituration with diethyl ether over a steam bath afforded 14.6 g of a white powder; 1H-NMR (400 MHz; CDCl3) δ 7.75 (dd, 1H, J=8.6, 0.4 Hz), 7.46 (d, 1H, J=2.5 Hz), 7.37 (dd, 1H, J=8.6, 2.5 Hz), 6.46 (s, 1H), 4.53 (s, 1H), 3.21 (s, 1H), 3.20 (s, 1H), 1.27 (s, 3H), 1.25 (s, 3H); 19F-NMR (376 MHz; CDCl3) δ −62.66 (s, 3F); MS (APCl+) 299.1 (M+1, 100); (APCl−) 186.0 (100)

reactant | 4-[1-(2,4-dimethoxy-benzyl)-4,4-dimethyl-2-oxo-pyrrolidin-3-yloxy]-2-trifluoromethyl-benzonitrile | 56 mmol, 25 g | COC1=C(CN2C(C(C(C2)(C)C)OC2=CC(=C(C#N)C=C2)C(F)(F)F)=O)C=CC(=C1)OC | C23H23F3N2O4
reactant | triethylsilane | 169 mmol, 20 g, 3 eq | C(C)[SiH](CC)CC | C6H16Si
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | trifluoroacetic acid | 250 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(4,4-Dimethyl-2-oxo-pyrrolidin-3-yloxy)-2-trifluoromethyl-benzonitrile | 14.6 g | CC1(C(C(NC1)=O)OC1=CC(=C(C#N)C=C1)C(F)(F)F)C | C14H13F3N2O2
